US07196108B2
To a solution of 3,3-dimethyl-2,3-dihydro-benzofuran-5-sulfonic acid methylamide (215 mg, 0.89 mmol) in trifluoroacetic acid (5 mL) and sulfuric acid (1 mL) was added portionwise N-bromosuccinimide (317 mg, 1.78 mmol). The mixture was stirred at room temperature overnight, poured into a solution of ice-water and rinsed with dichloromethane. The layers were separated. The aqueous layer was extracted twice with dichloromethane and the organic combined extract was washed with water, an aqueous solution of sodium bicarbonate, brine, dried (MgSO4), filtered and evaporated. The residue was chromatographed on silica gel (30% ethyl acetate in hexane) to afford 91 mg of 7-bromo-3,3-dimethyl-2,3-dihydro-benzofuran-5-sulfonic acid methylamide. 32% yield. 1H-NMR (300 MHz, CDCl3): 1.40 (s, 6H), 2.68 (d, J=5.3 Hz, 3H), 4.21 (m, 1H), 4.45 (s, 2H), 7.52 (d, J=1.8 Hz, 1H), 7.83 (d, J=1.8 Hz, 1H).

reactant | 3,3-dimethyl-2,3-dihydro-benzofuran-5-sulfonic acid methylamide | 0.89 mmol, 215 mg | CNS(=O)(=O)C=1C=CC2=C(C(CO2)(C)C)C1 | C11H15NO3S
reactant | N-bromosuccinimide | 1.78 mmol, 317 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
product | 7-bromo-3,3-dimethyl-2,3-dihydro-benzofuran-5-sulfonic acid methylamide | 91 mg, 32% yield | CNS(=O)(=O)C=1C=C(C2=C(C(CO2)(C)C)C1)Br | C11H14BrNO3S
